US08357693B2
2-(3-fluoro-4-(phenyl)phenyl)-N-(1H-indazol-5-yl)-7-methoxy-6-(2-(4-methylpiperazin-1-yl)ethoxy)quinazolin-4-amine
A mixture of 5-(6-(2-chloroethoxy)-2-(3-fluoro-4-(phenyl)phenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.35 g, 0.55 mmol) and 4-methyl piperazine in DMSO (1.5 mL) was heated at 85° C. for 3 h. The mixture was allowed to cool to RT, upon which it was poured into water (100 mL). The solid that formed was collected via filtration and purified by preparative TLC (SiO2, CH2Cl2:MeOH 9:1) to give the desired compound. The lower running spot was isolated and then taken up in CH2Cl2 (6 mL) and TFA (5 mL). The mixture was stirred for 2.5 h at RT. The volatiles were removed in vacuo to give a solid which was triturated with Et2O, filtered and dried under vacuum to give the desired product 2-(3-fluoro-4-(phenyl)phenyl)-N-(1H-indazol-5-yl)-7-methoxy-6-(2-(4-methylpiperazin-1-yl)ethoxy)quinazolin-4-amine (0.111 g, 0.184 mmol, 33%). MS 604.5 (M+1). HPLC retention time 5.10 mins.

reactant | 5-(6-(2-chloroethoxy)-2-(3-fluoro-4-(phenyl)phenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.55 mmol, 0.35 g | ClCCOC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=C(C=C1)C1=CC=CC=C1)F)NC=1C=C2C=NN(C2=CC1)C(=O)[O-]
reactant | 4-methyl piperazine | CN1CCNCC1 | C5H12N2
reactant | water | 100 mL | O | H2O
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | 2-(3-fluoro-4-(phenyl)phenyl)-N-(1H-indazol-5-yl)-7-methoxy-6-(2-(4-methylpiperazin-1-yl)ethoxy)quinazolin-4-amine | FC=1C=C(C=CC1C1=CC=CC=C1)C1=NC2=CC(=C(C=C2C(=N1)NC=1C=C2C=NNC2=CC1)OCCN1CCN(CC1)C)OC | C35H34FN7O2
